************************************************************************
* auCdl Netlist:
*
* Library Name:  TCG_Library
* Top Cell Name: cap_mim_1f5_m2m3_noshield
* View Name:     schematic
* Netlisted on:  Nov 24 11:42:38 2021
************************************************************************

*.BIPOLAR
*.RESI = 2000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TCG_Library
* Cell Name:    cap_mim_1f5_m2m3_noshield
* View Name:    schematic
************************************************************************

.SUBCKT cap_mim_1f5_m2m3_noshield I1_0_0_R0_BOT I1_0_0_R0_TOP I1_0_1_R0_BOT I1_0_1_R0_TOP
+ I1_0_2_R0_BOT I1_0_2_R0_TOP I1_1_0_R0_BOT I1_1_0_R0_TOP I1_1_1_R0_BOT
+ I1_1_1_R0_TOP I1_1_2_R0_BOT I1_1_2_R0_TOP I1_2_0_R0_BOT I1_2_0_R0_TOP
+ I1_2_1_R0_BOT I1_2_1_R0_TOP I1_2_2_R0_BOT I1_2_2_R0_TOP I1_default_BOT
+ I1_default_TOP
*.PININFO I1_0_0_R0_BOT:I I1_0_0_R0_TOP:I I1_0_1_R0_BOT:I I1_0_1_R0_TOP:I
*.PININFO I1_0_2_R0_BOT:I I1_0_2_R0_TOP:I I1_1_0_R0_BOT:I I1_1_0_R0_TOP:I
*.PININFO I1_1_1_R0_BOT:I I1_1_1_R0_TOP:I I1_1_2_R0_BOT:I I1_1_2_R0_TOP:I
*.PININFO I1_2_0_R0_BOT:I I1_2_0_R0_TOP:I I1_2_1_R0_BOT:I I1_2_1_R0_TOP:I
*.PININFO I1_2_2_R0_BOT:I I1_2_2_R0_TOP:I I1_default_BOT:I I1_default_TOP:I
CI1_2_2_R0 I1_2_2_R0_TOP I1_2_2_R0_BOT cap_mim_1f5fF M=1 l=100.000u w=100.000u
+ c=14.8516p
CI1_2_1_R0 I1_2_1_R0_TOP I1_2_1_R0_BOT cap_mim_1f5fF M=1 l=100.000u w=12.340u
+ c=1.89913372p
CI1_2_0_R0 I1_2_0_R0_TOP I1_2_0_R0_BOT cap_mim_1f5fF M=1 l=100.000u w=5.000u
+ c=0.81459p
CI1_1_2_R0 I1_1_2_R0_TOP I1_1_2_R0_BOT cap_mim_1f5fF M=1 l=12.340u w=100.000u
+ c=1.89913372p
CI1_1_1_R0 I1_1_1_R0_TOP I1_1_1_R0_BOT cap_mim_1f5fF M=1 l=12.340u w=12.340u
+ c=0.24255257p
CI1_1_0_R0 I1_1_0_R0_TOP I1_1_0_R0_BOT cap_mim_1f5fF M=1 l=12.340u w=5.000u
+ c=0.10384272p
CI1_0_2_R0 I1_0_2_R0_TOP I1_0_2_R0_BOT cap_mim_1f5fF M=1 l=5.000u w=100.000u
+ c=0.81459p
CI1_0_1_R0 I1_0_1_R0_TOP I1_0_1_R0_BOT cap_mim_1f5fF M=1 l=5.000u w=12.340u
+ c=0.10384272p
CI1_0_0_R0 I1_0_0_R0_TOP I1_0_0_R0_BOT cap_mim_1f5fF M=1 l=5.000u w=5.000u
+ c=0.04433p
CI1_default I1_default_TOP I1_default_BOT cap_mim_1f5fF M=1 l=5u w=5u c=0.04433p
.ENDS

